US06018056
Preparation of 2,3-Dihydro-6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophene-3-Carboxylic Acid
To a solution of 2,3-dihydro-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester (0.7337 g, 2.21 mmol) in methanol (10 ml) at 5° C. was added 5 N sodium hydroxide (1 ml, 5 mmol) and water (5 ml). The resulting slurry was stirred at that temperature for 1 hour, then toluene (5 ml) was added, and the resulting mixture was stirred at room temperature for 16 hours. Additional 5 N sodium hydroxide (1 ml) was then added, and the mixture stirred an additional 16 hours. The reaction mixture was then diluted with water (5 ml) and diethyl ether (20 ml), and the layers separated. The aqueous layer was acidified to pH 1 with 1 N hydrochloric acid, and extracted with diethyl ether (2×50 ml). The ether layers were combined, dried (magnesium sulfate), filtered and concentrated to a foam, which was further dried in vacuo to afford 0.6146 g (88%) of title compound. IR (KBr) 3300-2800 (br), 2836, 1710, 1611, 1594, 1514, 1482, 1248, 1181, 1030 cm-1 ; 1H NMR (CDCl3): δ11.63 (br s, 1 H), 7.37 (d, 2 H, J=8.4 Hz); 7.24 (d, 1 H, J=8.4 Hz), 6.85 (d, 2 H, J=8.4 Hz), 6.78 (d, 1 H, J=2.2 Hz), 6.67 (dd, 1 H, J=8.4, 2.2 Hz), 5.38 (d, 1 H, J=7.5 Hz), 4.42 (d, 1 H, J=7.5 Hz), 3.79 (s, 6 H); 13C NMR (CDCl3): d 177.7, 160.7, 159.5, 142.8, 132.3, 128.7, 127.3, 126.0, 114.3, 111.0, 107.5, 60.3, 55.6, 55.4, 55.1. Anal. calcd. for C17H16O4S: C, 64.54; H, 5.10; S; 10.13. Found: C, 64.78; H, 5.14; S, 10.55.

reactant | 2,3-dihydro-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester | 2.21 mmol, 0.7337 g | COC(=O)C1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C18H18O4S
reactant | sodium hydroxide | 5 mmol, 5 N, 1 ml | [OH-].[Na+]
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 5 N, 1 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 5 ml | O | H2O
product | 2,3-Dihydro-6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophene-3-Carboxylic Acid | 0.6146 g, 88% | COC=1C=CC2=C(SC(C2C(=O)O)C2=CC=C(C=C2)OC)C1 | C17H16O4S
